US06833378B2
7-(1-Ethyl-propoxy)-5-methyl-3-(2,4,6-trimethyl-phenyl)-3H-imidazo[4,5-b]pyridin-2-ylamine
The title compound was prepared by reacting 4-(1-ethyl-propoxy)-6-methyl-N2-(2,4,6-trimethyl-phenyl)-pyridine-2,3-diamine with BrCN in acetonitrile at room temperature overnight. The mixture was quenched with water and adjusted to pH 8.0 with saturated sodium bicarbonate and extracted with ethyl acetate. The organic layer was separated, dried and concentrated to give crude material. The material was purified through silica gel column chromatography to give the title compound as a white solid, mp. 159-161° C. 1H NMR(CDCl3) d 7.05(s,2H), 6.5(s,1H), 4.6(m,1H), 4.3(m,2H), 2.45(s,3H), 2.35(s,3H), 2.0(s,6H), 1.7(m,4H), 1.0(t,6H) ppm.

reactant | 4-(1-ethyl-propoxy)-6-methyl-N2-(2,4,6-trimethyl-phenyl)-pyridine-2,3-diamine | C(C)C(CC)OC1=C(C(=NC(=C1)C)NC1=C(C=C(C=C1C)C)C)N | C20H29N3O
reactant | BrCN | BrC#N | CBrN
solvent | acetonitrile | C(C)#N | C2H3N
product | 7-(1-Ethyl-propoxy)-5-methyl-3-(2,4,6-trimethyl-phenyl)-3H-imidazo[4,5-b]pyridin-2-ylamine | C(C)C(CC)OC1=C2C(=NC(=C1)C)N(C(=N2)N)C2=C(C=C(C=C2C)C)C | C21H28N4O
